US05204326
Preparation of Boc-Ile-Leu-Gly-OEt
By using 2.00 g of Boc-Leu-Gly-OEt and 1.67 g of Boc-Ile-OH.1/2H2O and the same procedure as in Reference Example 15 was repeated to obtain 1.99 g (yield: 73.3%) of the above-mentioned objective product.

reactant | Boc-Leu-Gly-OEt | 2.00 g | N([C@@H](CC(C)C)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C15H28N2O5
reactant | Boc-Ile-OH | 1.67 g | N([C@@H]([C@@H](C)CC)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
product | Boc-Ile-Leu-Gly-OEt | 1.99 g, yield: 73.3% | N([C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C21H39N3O6
